US05948820
To a solution of lithium borohydride (220 mg) in tetrahydrofuran (100 ml), under a nitrogen atmosphere, a solution of 4-acetamido-4-(2-phenylethyl)-6-hexanolide (1.4 g) in tetrahydrofuran (30 ml) was dropwise added over 10 minutes and the mixture was further refluxed under heating for 1.5 hours. After cooling, the reaction mixture was neutralized with a saturated aqueous ammonium chloride solution and the solvent was distilled away under reduced pressure. The residue obtained was dissolved in ethyl acetate and the mixture was washed with water and a saturated brine. The mixture was dried over anhydrous magnesium sulfate and the solvent was distilled away to give 3-acetamido-3-(2-phenylethyl)hexane-1,6-diol as a crude product. The product was dissolved in pyridine (20 ml) without purifying, and acetic anhydride (10 ml) was added to the mixture at room temperature. The whole mixture was allowed to stand overnight. The solvent was distilled away under reduced pressure and the residue obtained was purified by silica gel chromatography (eluent; chloroform-ethyl acetate=2:1) to give the subject compound (0.50 g) as a colorless oily substance.

reactant | lithium borohydride | 220 mg | [BH4-].[Li+]
reactant | 4-acetamido-4-(2-phenylethyl)-6-hexanolide | 1.4 g | C(C)(=O)NC1(CCC(=O)OCC1)CCC1=CC=CC=C1 | C16H21NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-acetamido-3-(2-phenylethyl)hexane-1,6-diol | C(C)(=O)NC(CCO)(CCCO)CCC1=CC=CC=C1 | C16H25NO3
